US07901594B2
Dimethyl 1,4,5,6,7,8-hexapropylanthracene-2,3-dicarboxylate
Dimethyl 1,4,5,6,7,8-hexapropyl-9,10-dihydroanthracene-2,3-dicarboxylate obtained in REFERENCE EXAMPLE 1 was used. 2,3-Dichloro-5,6-dicyanobenzo-quinone (0.729 g, 3.21 mmols) was added to a solution of dimethyl 1,4,5,6,7,8-hexapropyl-9,10-dihydroanthracene-2,3-dicarboxylate (1.554 g, 2.832 mmols) in benzene (25 ml). Subsequently, the mixture was refluxed for an hour. After filtration, the solvent in the mixture was removed in vacuum. Hexane was added to disintegrate into powders, whereby 1.393 g of the title compound was obtained as a white solid. The isolation yield was 90%.

reactant | 2,3-Dichloro-5,6-dicyanobenzo-quinone | 3.21 mmols, 0.729 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | dimethyl 1,4,5,6,7,8-hexapropyl-9,10-dihydroanthracene-2,3-dicarboxylate | 2.832 mmols, 1.554 g | C(CC)C1=C(C(=C(C=2CC3=C(C(=C(C(=C3CC12)CCC)CCC)CCC)CCC)CCC)C(=O)OC)C(=O)OC | C36H52O4
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | Dimethyl 1,4,5,6,7,8-hexapropylanthracene-2,3-dicarboxylate | 1.393 g, yield was 90% | C(CC)C1=C(C(=C(C2=CC3=C(C(=C(C(=C3C=C12)CCC)CCC)CCC)CCC)CCC)C(=O)OC)C(=O)OC | C36H50O4
